US05382600
A solution of diisopropylamine (10.1 g, 0.1 mol) in dry ether (100 ml) was cooled to -10°. A solution of butyl lithium in hexane (65 ml, 0.1 mol) was added, and the mixture was stirred at -10° for 20 min. A solution of N-ethylidene-tert.butylamine (10 g, 0.1 mol) in dry ether (100 ml) was added and the solution was stirred at 0° for 20 min. After cooling to -30° a solution of 2,6-dimethoxybenzophenone (24.1 g, 0.1 mol) in dry ether (100 ml), containing 30 ml THF, was added. The mixture was then stirred at ambient temperature for 20 h and hydrolized with water. The organic phase was washed with water, dried and evaporated, giving 32 g (94%) of N-(3-(2,6-dimethoxyphenyl)-3-hydroxy-3phenylpropylidene)tert.butylamine as an oil.

reactant | diisopropylamine | 0.1 mol, 10.1 g | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 0.1 mol, 65 ml | CCCCCC | C6H14
reactant | N-ethylidene-tert.butylamine | 0.1 mol, 10 g | C(C)=NC(C)(C)C | C6H13N
reactant | 2,6-dimethoxybenzophenone | 0.1 mol, 24.1 g | COC1=C(C(=O)C2=CC=CC=C2)C(=CC=C1)OC | C15H14O3
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(3-(2,6-dimethoxyphenyl)-3-hydroxy-3phenylpropylidene)tert.butylamine | 32 g, 94% | COC1=C(C(=CC=C1)OC)C(CC=NC(C)(C)C)(C1=CC=CC=C1)O | C21H27NO3
